US09107916B2
C. 2-[5-[(2-chloro-4-cyclopropylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2-chloro-4-cyclopropylphenyl)methanol according to the procedure for the preparation of Example 39, part C. [M+H] Calc'd for C19H15ClN4O, 351. Found, 351.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2-chloro-4-cyclopropylphenyl)methanol | ClC1=C(C=CC(=C1)C1CC1)CO | C10H11ClO
product | 2-[5-[(2-chloro-4-cyclopropylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=C(C=CC(=C1)C1CC1)COC1=CC=NN1C1=NC=CC(=C1)C#N | C19H15ClN4O
